US06835745B2
4-Nitro-3-trifluoromethylanisole
A solution of 4-nitro-3-trifluoromethylphenol (27 g, 130 mmol) in acetone (250 mL) was treated with K2CO3 (18 g, 130 mmol) and methyl iodide (16 mL, 260 mmol) and the mixture was heated at reflux under nitrogen. After 16 h, the cooled mixture was filtered to remove K2CO3 and the filtrate was concentrated in vacuo to give the crude product (32 g), which was taken up in benzene (250 mL). The organic solution was washed with water and brine (125 mL each), dried (MgSO4) and concentrated in vacuo to give the title compound (27 g, 94%) as a yellow oil which was pure enough for further use.

reactant | 4-nitro-3-trifluoromethylphenol | 130 mmol, 27 g | [N+](=O)([O-])C1=C(C=C(C=C1)O)C(F)(F)F | C7H4F3NO3
reactant | K2CO3 | 130 mmol, 18 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 260 mmol, 16 mL | CI | CH3I
solvent | acetone | 250 mL | CC(=O)C | C3H6O
solvent | benzene | 250 mL | C1=CC=CC=C1 | C6H6
product | 4-Nitro-3-trifluoromethylanisole | 27 g, 94% | [N+](=O)([O-])C1=C(C=C(C=C1)OC)C(F)(F)F | C8H6F3NO3
